US06884868B1
A mixture 1-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]ethanone (11.37 g) and 1.0 mol/l hydrochloric acid (225 ml) in ethanol (220 ml) was refluxed for 23 hours. The reaction mixture was added to a mixture of 1.0 mol/l sodium hydroxide solution and dichloromethane. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure to give cis-2,6-dimethyl-4-(4-piperazinylphenyl)morpholine (3.64 g).

reactant | 1-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]ethanone | 11.37 g | C[C@@H]1CN(C[C@@H](O1)C)C1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C18H27N3O2
reactant | hydrochloric acid | 1.0 mol/l, 225 ml | Cl | ClH
reactant | sodium hydroxide | 1.0 mol/l | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | cis-2,6-dimethyl-4-(4-piperazinylphenyl)morpholine | 3.64 g | C[C@@H]1CN(C[C@@H](O1)C)C1=CC=C(C=C1)N1CCNCC1 | C16H25N3O
